US04355040
In 100 ml of methanol was dissolved 1.8 g of 4-chloro-1-(4-methylbenzyl)-2-phenylimidazole-5-acetic acid, and 0.5 ml of concentrated sulfuric acid was added to the solution to boil for 2 hours. The reaction solution was evaporated to dryness under reduced pressure, and 50 ml each of ethyl acetate and a 10% aqueous sodium bicarbonate solution were added to the residue to shake. The ethyl acetate layer, after washing with water, was evaporated to dryness under reduced pressure. The residue was dissolved in a small amount of methanol and there was obtained, upon standing, 1.5 g of methyl 4-chloro-1-(4-methylbenzyl)-2-phenylimidazole-5-acetate as colorless, prism-formed crystals, m.p. 92°-95° C.

reactant | 4-chloro-1-(4-methylbenzyl)-2-phenylimidazole-5-acetic acid | 1.8 g | ClC=1N=C(N(C1CC(=O)O)CC1=CC=C(C=C1)C)C1=CC=CC=C1 | C19H17ClN2O2
reactant | sulfuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 100 ml | CO | CH4O
product | methyl 4-chloro-1-(4-methylbenzyl)-2-phenylimidazole-5-acetate | 1.5 g | ClC=1N=C(N(C1CC(=O)OC)CC1=CC=C(C=C1)C)C1=CC=CC=C1 | C20H19ClN2O2
